US05561145
4-phenoxypiperidine:
3-p-methoxyphenyl-5(S)-[(4-phenoxypiperidino)methyl]-2-oxazolidinone (hydrochloride), m.p. 227°-229°; [α]D =-31.6° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-phenoxypiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)OC1=CC=CC=C1)=O | C22H26N2O4
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-phenoxypiperidine | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
